US06852726B2
1-(4,5-Dihydro-1H-imidazol-2-ylmethyl)-1H-indole-3-sulfonyl chloride hydrochloride (0.297 g, 1 mmol) was dissolved in 1-methylpyrrlolidinone (14 mL) and stirred. Excess dimethylamine in 1-methylpyrrlolidinone was added to the stirring solution, after which the mixture was allowed to stand at room temperature for 15 minutes. Saturated aqueous sodium bicarbonate (30 mL) was then added, and the mixture was evaporated to dryness. The residue was purified by preparative HPLC to provide 1-(4,5-dihydro-1H-imidazol-2-ylmethyl)-1H-indole-3-sulfonic acid dimethylamide as a crystalline solid.

reactant | 1-(4,5-Dihydro-1H-imidazol-2-ylmethyl)-1H-indole-3-sulfonyl chloride hydrochloride | 1 mmol, 0.297 g | Cl.N1C(=NCC1)CN1C=C(C2=CC=CC=C12)S(=O)(=O)Cl
reactant | dimethylamine | CNC | C2H7N
solvent | sodium bicarbonate | 30 mL | C([O-])(O)=O.[Na+]
product | 1-(4,5-dihydro-1H-imidazol-2-ylmethyl)-1H-indole-3-sulfonic acid dimethylamide | CN(S(=O)(=O)C1=CN(C2=CC=CC=C12)CC=1NCCN1)C | C14H18N4O2S
